US08981085B2
A mixture of (R)-tert-butyl 5-bromo-4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (170 mg, 0.276 mmol), cyclopropylboronic acid (95 mg, 1.10 mmol), K3PO4 (205 mg, 0.967 mmol), Pd(OAc)2 (6.20 mg, 0.0276 mmol), and tricyclohexylphosphine (9.3 mg, 0.033 mmol) in toluene/water (10:1 mixture, 4.4 mL) was degassed under argon and heated at 80° C. for 15 hours. The reaction mixture was then allowed to cool to room temperature. The mixture was poured into water and extracted with CH2Cl2. The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 5 to 95% CH3CN/water gradient; 30 CV) to provide (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (81 mg, 51% yield). LCMS (APCI+) m/z 577.2 (M+H)+, Retention time=4.01 minutes (Method 2).

reactant | (R)-tert-butyl 5-bromo-4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.276 mmol, 170 mg | BrC=1C(=C2C(=NC1)N(C=C2NC(C2=CN=CC=C2)=O)C(=O)OC(C)(C)C)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C28H35BrN6O5
reactant | cyclopropylboronic acid | 1.10 mmol, 95 mg | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 0.967 mmol, 205 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.033 mmol, 9.3 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene water | 4.4 mL | C1(=CC=CC=C1)C.O
catalyst | Pd(OAc)2 | 0.0276 mmol, 6.20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 81 mg, 51% yield | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C2C(=NC=C1C1CC1)N(C=C2NC(C2=CN=CC=C2)=O)C(=O)OC(C)(C)C | C31H40N6O5
